US09284323B2
To a stirred solution of (R)-1-(1-chloro-3-methylnaphthalen-2-yl)ethane-1,2-diol (2.30 g, 9.74 mmol) in CH2Cl2 (97 mL), dibutyltinoxide (48.5 mg, 0.19 mmol), p-toluenesulfonyl chloride (2.08 g, 10.90 mmol), and Et3N (1.60 mL, 11.58 mmol) were added at room temperature). After stirring for 15 h, the reaction mixture was quenched with saturated aqueous NH4Cl, and then diluted with CH2Cl2. The organic phase was washed with brine, dried over Na2SO4, filtered and concentrated and purified by flash column chromatography (silica gel, 0 to 100% ethyl acetate/hexanes) to give (R)-2-(1-chloro-3-methylnaphthalen-2-yl)-2-hydroxyethyl 4-methylbenzenesulfonate. 1H-NMR: 400 MHz, (CDCl3) δ 8.18 (d, J=8.8 Hz, 1H), 7.79 (d, J=8.4 Hz, 1H), 7.57-7.54 (m, 5H), 5.82 (t, J=5.6 Hz, 1H), 4.44 (dd, J=10.0, 6.8 Hz, 1H), 4.35 (dd, J=10.4, 5.6 Hz, 1H), 2.59 (s, 3H), 2.29 (s, 3H).

reactant | (R)-1-(1-chloro-3-methylnaphthalen-2-yl)ethane-1,2-diol | 9.74 mmol, 2.30 g | ClC1=C(C(=CC2=CC=CC=C12)C)[C@H](CO)O | C13H13ClO2
reactant | dibutyltinoxide | 0.19 mmol, 48.5 mg | C(CCC)[Sn](CCCC)=O
reactant | p-toluenesulfonyl chloride | 10.90 mmol, 2.08 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Et3N | 11.58 mmol, 1.60 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 97 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(1-chloro-3-methylnaphthalen-2-yl)-2-hydroxyethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](O)C1=C(C2=CC=CC=C2C=C1C)Cl | C20H19ClO4S
